US07662830B2
1. 4-[4-(4-Fluoro-phenyl)-6-(2-methyl-piperazin-1-yl)-pyrimidin-2-yl]-3-methyl-morpholine
This compound is prepared using (R)-3-methylmorpholine (WO 02/064096) in a procedure analogous to that used for the preparation of 4-(4-fluoro-phenyl)-6-(2-methyl-piperazin-1-yl)-2-(2-methyl-pyrrolidin-1-yl)-pyrimidine in Example 2F step 3.

reactant | (R)-3-methylmorpholine | C[C@H]1NCCOC1 | C5H11NO
reactant | 4-(4-fluoro-phenyl)-6-(2-methyl-piperazin-1-yl)-2-(2-methyl-pyrrolidin-1-yl)-pyrimidine | FC1=CC=C(C=C1)C1=NC(=NC(=C1)N1C(CNCC1)C)N1C(CCC1)C | C20H26FN5
product | 4-[4-(4-Fluoro-phenyl)-6-(2-methyl-piperazin-1-yl)-pyrimidin-2-yl]-3-methyl-morpholine | FC1=CC=C(C=C1)C1=NC(=NC(=C1)N1C(CNCC1)C)N1C(COCC1)C | C20H26FN5O
